Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
PCP: 
Name: ___. 
Location: ___ 
___: ___, ___ 
Phone: ___ 
Fax: ___ 
Email: ___ 

Admission ___ 2330

CC:confusion

___ h/o mod-severe alzheimers who is living at home with her 
daughter and grandchildren. She is normal quite confused, but 
pleasant. She would have occasional outburst of anger that were 
treated with behavioral modification and seroquel. In the last 3 
days the episodes have become more frequent and longer in 
length. She has also become physically violent.  Today at home 
the patient became violent and almost fell down the stairs so 
her daughter brought her to the ER. The patient is currenly calm 
and cooprative without any complaints. 

In ER: UA dirty and given PO cipro. tradazone and seroquel. 
potassium was low. VS 97.4 76 160/78 16 99RA

ROS:  
-Constitutional: [x]WNL []Weight loss []Fatigue/Malaise []Fever 
[]Chills/Rigors []Nightweats []Anorexia  
-Cardiac: [x]WNL []Chest pain []Palpitations ___ edema 
[]Orthopnea/PND []DOE  
-Respiratory: [x]WNL []SOB []Pleuritic pain []Hemoptysis []Cough 
 
-Gastrointestinal: [x]WNL []Nausea []Vomiting []Abdominal pain 
[]Abdominal Swelling []Diarrhea []Constipation []Hematemesis 
[]Hematochezia []Melena  
-Musculoskeletal: [x]WNL []Myalgias []Arthralgias []Back pain  
-Neurological: [ ]WNL []Numbness of extremities []Weakness of 
extremities []Parasthesias []Dizziness/Lightheaded []Vertigo 
[x]Confusion []Headache  

 
Past Medical History:
colon CA now past ___ years without evidence of recurrence
alzheimer's dementia dx in ___
 
Social History:
___
Family History:
n/a
 
Physical Exam:
Admission
VS: 95.7 140/80 80 18 99RA
Gen: Well appearing, no acute distress, awake, alert, 
appropriate and oriented x 1.
Skin: warm to touch, no apparent rashes. 
HEENT: No conjunctival pallor, no scleral jaundice,  OP clear 
CV:  RRR no audible m/r/g 
Lungs: clear to auscultation 
Abd: soft, NT, normal BS 
Ext: No C/C/E
Neuro: strength and sensation intact bilaterally, gait steady

 
Pertinent Results:
___ 09:30PM URINE  HOURS-RANDOM
___ 09:30PM URINE  HOURS-RANDOM
___ 09:30PM URINE  GR HOLD-HOLD
___ 09:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 09:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:30PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 LEUK-TR
___ 09:30PM URINE  ___ BACTERIA-FEW 
YEAST-NONE ___ TRANS ___ 09:30PM URINE  MUCOUS-FEW
___ 08:10PM   GLUCOSE-139* UREA N-23* CREAT-0.9 SODIUM-140 
POTASSIUM-3.2* CHLORIDE-105 TOTAL CO2-26 ANION GAP-12
___ 08:10PM   estGFR-Using this
___ 08:10PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:10PM   WBC-7.5 RBC-4.01* HGB-12.3 HCT-37.0 MCV-92 
MCH-30.7 MCHC-33.4 RDW-13.3
___ 08:10PM   NEUTS-68.2 ___ MONOS-4.7 EOS-0.5 
BASOS-0.4
___ 08:10PM   PLT COUNT-273

CXR: Lungs are clear, heart size normal. No pleural effusion or 
evidence of central adenopathy. Elevation of the left 
hemidiaphragm, probably a function of gaseous distention of the 
stomach and/or diaphragmatic eventration. No pleural 
abnormality. Thoracic aorta is calcified in the arch but 
otherwise normal. 

EKG QTc: ___ with h/o alzheimer's dementia with hx of agitation, with 
acute worsening over the past 3 days causing signif family 
concern about pt safety.  
.  
Treating for possible UTI, given that U/A was mildly abnormal, 
and pt history/ROS unreliable (although denies dysuria). Will 
treat UTI and titrate psychiatric medications as tolerated.  
.  
.  
worsening Dementia with periods of Agitation:  
Daughter notes significant decline over past ___ months, as 
noted by decreased personal hygeine. Dtr finding used toilet 
paper around the house and in the cabinets, and pt requires 
constant redirecting. Dtr concerned that this behavior not only 
puts patient at risk, but rest of family as well. Pt tried to 
escape from the house, and required physical restraint by 
daughter. Dtr notes has to keep house on lockdown. Dtr feels 
that condition has been a constant progression rather than acute 
worsening.  
Pt was previously on Seroquel 25 mg po q am, and daughter added 
25 mg po qhs x past ___ days without signif improvement. Pt was 
given Trazodone night prior to admission as well.  
Treating possible UTI in case there is a superimposed delirium 
exacerbating her dementia.
Pt remained on 1:1 sitter, and had a couple episodes of 
code-purple requiring Security and additional medications to 
calm the patient.  Psychiatry was consulted, and Seroquel was 
titrated up, with apparent benefit.  Pt now appears more calm 
and comfortable, although it remains too early to tell if she 
will require further medication titration.  EKG QTc was 
monitored while titrating antipsychotics and cipro; QTc remained 
stable, most recent 404.
Pt was discharged to ___ unit to allow further medication 
titration if needed, prior to locked dementia unit placement.
.  
Secondary Diagnosis: 599.0 URINARY TRACT INFECTION, BACTERIAL  
U/A suggests possible UTI, but not entirely clear. Elected to 
treat for possible UTI with course of cipro in case is causing 
pt to have delerium as e/o increased agitation.  
- urine culture returned contaminated
- cipro po for total 5 days (2 more days after discharge)
.  
Secondary Diagnosis: 331.0 DEMENTIA, ALZHEIMER'S  
- Pt is followed by Cognitive Neurology as an outpt; d/w Dr. 
___.  
- Psych consulted to assist with pharmacotherapy of dementia 
with agitation  
.  
Pt medically stable on ___, and remains medically stable since 
then for discharge to ___ facility, with the possibility 
of requiring further psychiatric medication titration in the 
near future. Pt appears to be doing well on current regimen, but 
it is too early to tell if regimen will adequately control 
behavior. It is noted that much of pt's agitation is in regards 
to desire to wander, and may be less agitated in locked dementia 
unit.  
.  
FEN:regular  
CODE: DNR/DNI; d/w ___  
HCP and daughter is ___ ___  

 
___ on Admission:
seroquel 25 hs prn
trazadone 25 mg hs prn insomnia
 
Discharge Medications:
1. Citalopram 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
2. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO QAM (once a 
day (in the morning)).  
3. Quetiapine 50 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
4. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for agitation.  
5. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 2 days.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Worsening dementia with periods of agitation; possible 
superimposed delirium
Urinary tract infection

 
Discharge Condition:
Mental Status:Confused - always
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent; but requiring 
monitoring

 
Discharge Instructions:
You were admitted with worsening dementia with agitation.  Your 
medications were increased to help keep you calm and control 
your behavior.

 
Followup Instructions:
___